US09232792B2
A mixture of 290 mg of methyl 4-(trifluoromethyl)benzo[b]thiophene-2-carboxylate, 60 mg of lithium hydroxide monohydrate, 2 ml of water and 6 ml of methanol was stirred at 75° C. for 1 hour. The reaction mixture was cooled to room temperature, and then concentrated under reduced pressure. To the residue was added water, and then washed with tert-butyl methyl ether 3 times. To the aqueous layer was added concentrated hydrochloric acid, and then extracted with chloroform 3 times. The combined organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and then concentrated under reduced pressure to obtain 240 mg of 4-(trifluoromethyl)benzo[b]thiophene-2-carboxylic acid (the present compound 3).

reactant | methyl 4-(trifluoromethyl)benzo[b]thiophene-2-carboxylate | 290 mg | FC(C1=CC=CC=2SC(=CC21)C(=O)OC)(F)F | C11H7F3O2S
reactant | lithium hydroxide monohydrate | 60 mg | O.[OH-].[Li+]
reactant | water | 2 ml | O | H2O
solvent | methanol | 6 ml | CO | CH4O
product | 4-(trifluoromethyl)benzo[b]thiophene-2-carboxylic acid | 240 mg | FC(C1=CC=CC=2SC(=CC21)C(=O)O)(F)F | C10H5F3O2S
